Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.154017971259
[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.820207761
[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]=[O:3],0.10775147353
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13],4.8105810016
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][H:8]>>[H:1][O:2][C@:3]1([H:4])[C:5][O:6][C:7]1[H:8],-1.05040926145
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.90687446464
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],4.91790937996
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][H:3],8.29316919
[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2][C:3],5.96673254146
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],6.38753305038
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:4],1.82874730781
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:7])[H:8].[H:1][C:2](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12],4.48176895729
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.38814691481
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],3.71937049062
[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12],-2.66894325546
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-0.309743574169
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-0.830402292499
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5],3.4434882516800003
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-7.22554634778
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4],3.03757164366
[C:1](=[C:2]=[C:6]([H:7])[H:8])([H:3])[H:4].[C:5]=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],0.573515001781
[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:11]([H:12])([H:13])[H:14],4.9041499344
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],1.48585514018
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.07910811988
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],7.140420269339999
[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-0.93071009888
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],3.884303419080002
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:5],5.0249412851
